US06953790B2
Step B. tert-Butyl[1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]acetate
Lithium diisopropylamide (1.8 M in heptane/tetrahydrofuran/ethylbenzene; 0.58 g, 5.41 mmol) was added to a solution of 1-(2-methoxyethyl)-6-phenylazepan-2-one (1.03 g, 4.16 mmol) in tetrahydrofuran (40 mL) at −78° C. After 2 h, tert-butylbromoacetate was added. After an additional 1.5 h, the reaction was quenched with methanol and allowed to warm to ambient temperature and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave 450 mg (cis isomer) and 350 mg (trans isomer) of the title compound. MS 362 (M+1). cis isomer: 1H NMR (500 MHz, CDCl3) δ 7.29 (t, J=7.6 Hz, 2H), 7.26 (m, 1H), 7.22-7.20 (m, 2H), 4.04 (br d, J=15.2 Hz, 1H), 3.84 (dt, J=13.9, 4.9 Hz, 1H), 3.51 (dd, J=15.4, 3.9 Hz, 1H), 3.40-3.35 (m, 1H), 3.30-3.21 (m, 2H), 3.24 (s, 3H), 3.02-3.00 (m, 1H), 2.84 (dd, J=16.4, 7.6 Hz, 1H), 2.68-2.66 (m, 1H), 2.33 (dd, J=16.4, 6.8 Hz, 1H), 2.11-2.07 (m, 1H), 2.05-1.95 (m, 1H), 1.80-1.76 (m, 2H), 1.46 (s, 9H). trans isomer: 1H NMR (500 MHz, CDCl3) δ 7.32 (t, J=7.3 Hz, 2H), 7.24-7.21 (m, 1H), 7.18 (d, J=7.1 Hz, 2H), 3.96 (dd, J=14.9, 10.0 Hz, 1H), 3.82-3.77 (m, 1H), 3.56-3.46 (m, 2H), 3.43-3.38 (m, 1H), 3.34 (s, 3H), 3.30 (d, J=15.1 Hz, 1H), 3.20-3.15 (m, 1H), 2.85 (dd, J=16.6, 7.8 Hz, 1H), 2.78 (br t, 1H), 2.26 (dd, J=16.6, 6.6 Hz, 1H), 2.10 (br d, J=22.7, 9.3 Hz, 1H), 1.77-1.73 (m, 1H), 1.62-1.59 (m, 1H), 1.46 (s, 9H).

reactant | Lithium diisopropylamide | 5.41 mmol, 1.8 M, 0.58 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2-methoxyethyl)-6-phenylazepan-2-one | 4.16 mmol, 1.03 g | COCCN1C(CCCC(C1)C1=CC=CC=C1)=O | C15H21NO2
reactant | tert-butylbromoacetate | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | tert-Butyl[1-(2-methoxyethyl)-2-oxo-6-phenylazepan-3-yl]acetate | C(C)(C)(C)OC(CC1C(N(CC(CC1)C1=CC=CC=C1)CCOC)=O)=O | C21H31NO4
